US07122545B2
To a suspension of 0.04 g 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboximidothioic acid methyl ester hydroiodide in 1.8 ml tetrahydrofurane were added 0.1 g 1-benzyl-4,4-diethoxy-piperidin-3-ylamine in 1.8 ml tetrahydrofurane and the mixture was stirred at room temperature for 16 hours. Then 0.015 ml boron trifluoride etherate was added and the solvent was distilled off under vacuum. Again 0.015 ml boron trifluoride etherate was added and the mixture was dissolved in 1.5 ml dimethylformamide and heated for 15 minutes at 125° C. The solvent was distilled off and the residue was dissolved in dichloromethane and extracted with water. The organic layer was dried with sodium sulfate, filtered and the solvent was evaporated. Chromatography on silicagel with ethylacatate/heptane 1:1 to 2:1 yielded 0.4 mg (1%) 5-benzyl-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridine as an amorphous solid; m/e=462 (M+H+).

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboximidothioic acid methyl ester hydroiodide | 0.04 g | I.CSC(=N)C=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC
reactant | 1-benzyl-4,4-diethoxy-piperidin-3-ylamine | 0.1 g | C(C1=CC=CC=C1)N1CC(C(CC1)(OCC)OCC)N | C16H26N2O2
reactant | boron trifluoride etherate | 0.015 ml | B(F)(F)F.CCOCC
solvent | tetrahydrofurane | 1.8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 1.8 ml | O1CCCC1 | C4H8O
product | 5-benzyl-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridine | 0.4 mg, 1% | C(C1=CC=CC=C1)N1CC2=C(CC1)N=C(N2)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C25H27N5O2S
